US04476132
3.95 g of malonic acid diethyl ester are dissolved in 50 ml of dimethyl acetamide and converted into the sodium salt with sodium hydride (1.07 g of a 50% strength suspension in mineral oil, de-oiled with hexane). The sodium salt is heated to 105°, in the course of 90 minutes 6.20 g of N-butyl-5-butyryl-4-methylisatic acid anhydride in 30 ml of dimethyl acetamide are added dropwise and the mixture is stirred for 10 hours at 120° and overnight at room temperature. The dimethyl acetamide is then distilled off, 200 ml of ice-water and 20 ml of 2N hydrochloric acid are added to the reaction mixture and this is stirred intensively for some time and filtered with suction, and the residue is then washed twice with ice-water and dried in the atmosphere. The crude product is purified by chromatography over 60 g of silica gel with toluene/ethyl acetate (9:1) as eluant. The product is concentrated by evaporation, digested with 30 ml of diethyl ether and then with 50 ml of hexane, filtered with suction, subsequently washed with hexane and dried under reduced pressure. 1-Butyl-6-butyryl-4-hydroxy-7-methylcarbostyril-3-carboxylic acid ethyl ester having a melting point of 104°-105° is obtained.

reactant | malonic acid diethyl ester | 3.95 g | C(C)OC(CC(=O)OCC)=O | C7H12O4
reactant | sodium | [Na] | Na
reactant | sodium hydride | [H-].[Na+]
reactant | N-butyl-5-butyryl-4-methylisatic acid anhydride | 6.20 g | C(CCC)NC=1C(=CC(=C(C1)C)C(CCC)=O)C(=O)C(=O)OC(C(C=1C(NCCCC)=CC(=C(C1)C(CCC)=O)C)=O)=O | C34H44N2O7
solvent | dimethyl acetamide | 50 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethyl acetamide | 30 ml | CC(=O)N(C)C | C4H9NO
solvent | hexane | CCCCCC | C6H14
product | 1-Butyl-6-butyryl-4-hydroxy-7-methylcarbostyril-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=CC(=C(C=C2C1O)C(CCC)=O)C)CCCC)=O | C21H27NO5
